US04737313
Next, a solution of the above terephthalaldehydic acid chloride (20 g) dissolved in toluene (100 ml) was dropwise added to a solution of 1-octanol (20 g) dissolved in pyridine (150 ml), followed by heating the mixture on a water bath at 60° C. with stirring, allowing to stand overnight, thereafter adding toluene (500 ml), adding 6N hydrochloric acid, separating the liquid layer, washing with an aqueous solution of 2N NaOH, washing with water, drying, distilling off toluene, and further distilling under reduced pressure to obtain p-octyloxycarbonylbenzaldehyde (166°~167° C./4 mmHg) (22 g).

reactant | terephthalaldehydic acid chloride | 20 g | C(C1=CC=C(C=O)C=C1)(=O)Cl | C8H5ClO2
reactant | 1-octanol | 20 g | C(CCCCCCC)O | C8H18O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | p-octyloxycarbonylbenzaldehyde | 22 g | C(CCCCCCC)OC(=O)C1=CC=C(C=O)C=C1 | C16H22O3
